US08487109B2
4-(3-Diethylamino-prop-1-ynyl)-benzonitrile
This product was prepared from toluene-4-sulfonic acid 4-cyano-phenyl ester and diethyl-prop-2-ynyl-amine following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 6:4; yield (95.4 mg, 90%); 1H NMR δ (CDCl3): 7.58 (d, J=8.65 Hz, 2H), 7.49 (d, J=8.63 Hz, 2H), 3.64 (s, 2H), 2.61 (q, J=7.16 Hz, 4H), 1.11 (t, J=7.15 Hz, 6H); LCMS m/z: 212.

reactant | toluene-4-sulfonic acid 4-cyano-phenyl ester | C(#N)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H11NO3S
reactant | diethyl-prop-2-ynyl-amine | C(C)N(CC#C)CC | C7H13N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-(3-Diethylamino-prop-1-ynyl)-benzonitrile | C(C)N(CC#CC1=CC=C(C#N)C=C1)CC | C14H16N2
